US07910588B2
Add acetic acid (1.00 mL, 17.45 mmol) and phenyl hydrazine (1.98 mL, 20.00 mmol) to a solution of 2-butanone (2.15 mL, 24.00 mmol) in ethanol (90 mL) at room temperature. Stir the reaction for 1 hr., then remove the solvents in vacuo to give a N-[1-methyl-prop-(E)-ylidene]-N′-phenyl-hydrazine as a crude orange oil (3.21 g, 99%). MS (m/z): 163 (M+1).

reactant | acetic acid | 17.45 mmol, 1.00 mL | C(C)(=O)O | C2H4O2
reactant | phenyl hydrazine | 20.00 mmol, 1.98 mL | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-butanone | 24.00 mmol, 2.15 mL | CC(CC)=O | C4H8O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | N-[1-methyl-prop-(E)-ylidene]-N′-phenyl-hydrazine | C/C(/CC)=N\NC1=CC=CC=C1 | C10H14N2
